US07825253B2
N5-(4-Methanesulfonyl-phenyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=408.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline (CAS 455955-26-7), 5-methyl-2-furanmethanamine and 4-methylsulfonylaniline.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 4-methylsulfonylaniline | CS(=O)(=O)C1=CC=C(N)C=C1 | C7H9NO2S
product | N5-(4-Methanesulfonyl-phenyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | CS(=O)(=O)C1=CC=C(C=C1)NC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C22H21N3O3S
